US09422285B2
(2,6-Difluoro-3-methoxyphenyl)methanol
A stirred solution of 600 mg (3.48 mmol) of 2,6-difluoro-3-methoxybenzaldehyde (CAS 149949-30-4) in 8 ml of ethanol at 0° C. was admixed with 65.9 mg (1.74 mmol) of sodium borohydride in portions. After stirring at 0° C. for 30 min, the reaction mixture was quenched with water and extracted three times with methyl tert-butyl ether. The combined organic extracts were washed with water and saturated aqueous sodium chloride solution, and dried with a phase separation cartridge. The solvent was drawn off to dryness under reduced pressure, which gave 550 mg (89% of theory) of the target compound.

reactant | 2,6-difluoro-3-methoxybenzaldehyde | 3.48 mmol, 600 mg | FC1=C(C=O)C(=CC=C1OC)F | C8H6F2O2
reactant | sodium borohydride | 1.74 mmol, 65.9 mg | [BH4-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | (2,6-Difluoro-3-methoxyphenyl)methanol | FC1=C(C(=CC=C1OC)F)CO | C8H8F2O2
